US07968570B2
A mixture of 2,3-dihydroisoindol-1-one (0.066 g, 0.5 mmol), 3-bromo-propenyl-benzene (0.118 g, 0.6 mmol), Cs2CO3 (0.408 g, 1.25 mmol), and 18-crown-6 (0.013 g, 0.05 mmol) in acetone (3 mL) was stirred at 70° C. for 16 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(2-phenyl-allyl)-2,3-dihydro-isoindol-1-one. 1H NMR (300 MHz, CDCl3): δ (ppm) 4.42 (m, 4H), 6.22 (m, 1H), 6.60 (d, 1H), 7.22-7.60 (m, 8H), 7.88 (d, 1H). GC-MS: m/z 249 (M)+.

reactant | 2,3-dihydroisoindol-1-one | 0.5 mmol, 0.066 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | 3-bromo-propenyl-benzene | 0.6 mmol, 0.118 g | BrCC=CC1=CC=CC=C1 | C9H9Br
reactant | Cs2CO3 | 1.25 mmol, 0.408 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 18-crown-6 | 0.05 mmol, 0.013 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-phenyl-allyl)-2,3-dihydro-isoindol-1-one | C1(=CC=CC=C1)C(CN1C(C2=CC=CC=C2C1)=O)=C | C17H15NO
